US05912244
6-(2-hydroxyphenyl)thio-2,2,3-trimethyl-2H-benzo[b]pyran (1.1 g) (see Preparation 10) was dissolved in dry dimethylformamide (2 ml) and imidazole (0.55 g) and tert-butyldimethylsilyl chloride (0.61 g) were added. The flask was fitted with a calcium chloride drying tube and the mixture stirred at 40° C. for 90 minutes. Water was added and the mixture was extracted with diethyl ether. The organic extract was washed with aqueous sodium hydrogen carbonate solution (×2), dried (anhydrous sodium sulphate), the solvent removed under reduced pressure and the crude product was chromatographed on silica using 4:1 hexane: dichloromethane as the eluent to yield 6-(2-tert-butyidimethylsilyloxyphenyl)thio-2,2,3-trimethyl-2H-benzo[b]pyran (1.43 g) as an oil.

reactant | 6-(2-hydroxyphenyl)thio-2,2,3-trimethyl-2H-benzo[b]pyran | 1.1 g | OC1=C(C=CC=C1)SC1=CC2=C(OC(C(=C2)C)(C)C)C=C1 | C18H18O2S
reactant | imidazole | 0.55 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 0.61 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | Water | O | H2O
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 6-(2-tert-butyidimethylsilyloxyphenyl)thio-2,2,3-trimethyl-2H-benzo[b]pyran | 1.43 g | [Si](C)(C)(C(C)(C)C)OC1=C(C=CC=C1)SC1=CC2=C(OC(C(=C2)C)(C)C)C=C1 | C24H32O2SSi
